US09447074B2
Intermediate 64 1,1-dimethylethyl 7-[5-acetyl-2-({[4-(ethyloxy)-2-pyridinyl]methyl}oxy)phenyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
Potassium tert-butoxide (0.132 g) in ethanol (4 ml) was stirred for 15 min before adding 1,1-dimethylethyl 7-(5-acetyl-2-{[(4-chloro-2-pyridinyl)methyl]oxy}phenyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate, (0.4 g) and this was heated in a microwave at 110 C. for 1.5 h. Water (20 ml) was added to the cooled mixture and this was extracted with DCM (2×30 ml). The combined organics were washed with brine, dried over sodium sulphate and concentrated in vacuo. The crude product was purified through silica eluting with 0-45% ethyl acetate in hexane to give the title compound, 0.16 g

reactant | Potassium tert-butoxide | 0.132 g | CC(C)([O-])C.[K+]
reactant | 1,1-dimethylethyl 7-(5-acetyl-2-{[(4-chloro-2-pyridinyl)methyl]oxy}phenyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.4 g | C(C)(=O)C=1C=CC(=C(C1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)OCC1=NC=CC(=C1)Cl | C29H31ClN2O4
reactant | Water | 20 ml | O | H2O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1,1-dimethylethyl 7-[5-acetyl-2-({[4-(ethyloxy)-2-pyridinyl]methyl}oxy)phenyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | C(C)(=O)C=1C=CC(=C(C1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)OCC1=NC=CC(=C1)OCC | C31H36N2O5
